US06211215B1
In substantially the same manner as in Reference Example 47, 5-cyano-2-thiophenecarboxamide was reacted with 1,3-dichloroacetone to obtain 4-chloromethyl-2-(5-cyano-2-thienyl)oxazole. The yield was 22%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 146-147° C.

reactant | 5-cyano-2-thiophenecarboxamide | C(#N)C1=CC=C(S1)C(=O)N | C6H4N2OS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(5-cyano-2-thienyl)oxazole | yield was 22% | ClCC=1N=C(OC1)C=1SC(=CC1)C#N | C9H5ClN2OS
